* source LAB5
R_R1         0 N00484  680k TC=0,0 
R_R2         N00808 N00157  2k TC=0,0 
R_R3         0 N00812  1k TC=0,0 
V_V1         N00157 0 12Vdc
M_M1         N00808 N00484 N00812 N00812 MbreakND           
